US06069157
3-Cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-(2-trifluoromethylphenyl)pyrazole
To a solution of 5-amino-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-(2-trifluoromethylphenyl)pyrazole (0.114 g) in tetrahydrofuran (2.5 ml) was added t-butyl nitrite (87 μl). The mixture was heated to 65° C. for 1 hour, then cooled and evaporated. The residue was taken up in t-butanol and freeze dried to give the title compound as a pale brown solid, m.p. 142-3° C.

reactant | 5-amino-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-(2-trifluoromethylphenyl)pyrazole | 0.114 g | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C#N)C1=C(C=CC=C1)C(F)(F)F | C18H8Cl2F6N4
reactant | t-butyl nitrite | 87 μl | N(=O)OC(C)(C)C | C4H9NO2
solvent | tetrahydrofuran | 2.5 ml | O1CCCC1 | C4H8O
product | 3-Cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-(2-trifluoromethylphenyl)pyrazole | C(#N)C1=NN(C=C1C1=C(C=CC=C1)C(F)(F)F)C1=C(C=C(C=C1Cl)C(F)(F)F)Cl | C18H7Cl2F6N3
